US06586617B1
To a solution of 2′-Nitro-4′-thiocyano-p-toluenesulfonanilide (5.0 g (14.3 mmol) in methanol (20 ml), sodium borohydride (2.80 g (66.7 mmol)) was added under cooling with ice and with stirring. After 30 minutes' stirring, to the resulting mixture, methyl iodide (3.67 ml (59.0 mmol)) was added dropwise under cooling with ice and the mixture was then stirred at room temperature for 20 hours. Then, water was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was then subjected to silica gel column chromatography with ethyl acetate-hexane (1:4) as eluent. The resulting crystals were recrystallized from ethyl acetate to give 2.27 g (47%) of 2′-nitro-4′-methylthio-p-toluenesulfonanilide as orange crystals.

reactant | 2′-Nitro-4′-thiocyano-p-toluenesulfonanilide | [N+](=O)([O-])C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)SC#N | C14H11N3O4S2
reactant | sodium borohydride | 66.7 mmol, 2.80 g | [BH4-].[Na+]
reactant | methyl iodide | 59.0 mmol, 3.67 ml | CI | CH3I
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 2′-nitro-4′-methylthio-p-toluenesulfonanilide | 2.27 g, 47% | [N+](=O)([O-])C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)SC | C14H14N2O4S2
